US09034900B2
Step 2: N-[3-(1,5-dimethyl-6-oxopyridin-3-yl)phenyl]methanesulfonamide
5-Bromo-1,3-dimethylpyridin-2-one was treated with [3-(methanesulfonamido)phenyl]boronic acid in a manner similar to Example 94 to give the title compound as a white solid. 1H NMR (DMSO-d6, 400 MHz): 9.74 (s, 1H), 7.91 (d, J=2.4 Hz, 1H), 7.62 (s, 1H), 7.37 (t, J=7.6 Hz, 1H), 7.32 (s, 1H), 7.29 (d, J=7.6 Hz, 1H), 7.13 (d, J=7.6 Hz, 1H), 3.52 (s, 3H), 3.02 (s, 3H), 2.08 (s, 3H). LCMS (M+H)+ 293.

reactant | 5-Bromo-1,3-dimethylpyridin-2-one | BrC=1C=C(C(N(C1)C)=O)C | C7H8BrNO
reactant | [3-(methanesulfonamido)phenyl]boronic acid | CS(=O)(=O)NC=1C=C(C=CC1)B(O)O | C7H10BNO4S
product | N-[3-(1,5-dimethyl-6-oxopyridin-3-yl)phenyl]methanesulfonamide | CN1C=C(C=C(C1=O)C)C=1C=C(C=CC1)NS(=O)(=O)C | C14H16N2O3S
